US04188395
2-Phthalimidomethyl-6-methyl-4-pyridyl-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
A solution of 4.7 ccs of pyridine-2-aldehyde, 12.4 g of phthalimidoacetoacetic acid ethyl ester and 5.85 g of β-aminocrotonic acid ethyl ester in 100 ccs of ethanol is heated under reflux for 24 hours and, after cooling and filtering, crystals (beige) of melting point 156°-158° C. are obtained, yield: 75%.

reactant | pyridine-2-aldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | phthalimidoacetoacetic acid ethyl ester | 12.4 g | C(C)OC(CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
reactant | β-aminocrotonic acid ethyl ester | 5.85 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
reactant | ethanol | C(C)O | C2H6O
product | 2-Phthalimidomethyl-6-methyl-4-pyridyl-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 75% | C(C)OC(=O)C1=CN(C=C(C1)C(=O)OCC)C1=CC(=NC(=C1)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C26H25N3O6
